US04642313
2.6 g of N-acetyl-(2-furylcarbonyl)methylamine, 0.74 g of 61% sodium hydride and 2.9 g of ethyl bromoacetate are treated in the same manner as described in Preparation 1-(2). 1.6 g of ethyl 3-acetylamino-3-(2-furylcarbonyl)propionate are thereby obtained. Yield: 41%

reactant | N-acetyl-(2-furylcarbonyl)methylamine | 2.6 g | C(C)(=O)NCC(=O)C=1OC=CC1 | C8H9NO3
reactant | sodium hydride | 0.74 g | [H-].[Na+]
reactant | ethyl bromoacetate | 2.9 g | BrCC(=O)OCC | C4H7BrO2
product | ethyl 3-acetylamino-3-(2-furylcarbonyl)propionate | 1.6 g, Yield: 41% | C(C)(=O)NC(CC(=O)OCC)C(=O)C=1OC=CC1 | C12H15NO5
